US06969725B2
In analogy to the procedure described in example 1 f], [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester was reacted with 4-chloromethyl-2-(3,5-dichloro-phenyl)-5-methyl-oxazole (prepared from 3,5-dichloro-benzaldehyde and diacetyl monoxyme followed by treatment with POCl3 in analogy to the procedures described in examples 2 a] and b]) in the presence of cesium carbonate and potassium iodide to yield [rac]-3-{4-[2-(3,5-dichloro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid ethyl ester as colorless liquid.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | 4-chloromethyl-2-(3,5-dichloro-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=CC(=CC(=C1)Cl)Cl | C11H8Cl3NO
reactant | 3,5-dichloro-benzaldehyde | ClC=1C=C(C=O)C=C(C1)Cl | C7H4Cl2O
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | [rac]-3-{4-[2-(3,5-dichloro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=CC(=CC(=C1)Cl)Cl)C)OCC)=O | C25H27Cl2NO5
